US09359350B2
(1) Synthesis of (2-amino-4-bromophenyl)acetonitrile [150-1] (hereinafter referred to as a compound [150-1])
To a solution of ethyl cyanoacetate (3.2 mL) in dimethyl sulfoxide (20 mL) was added sodium hydride (1.22 g) at room temperature, and then 1,4-dibromo-2-nitrobenzene (4.21 g) was added, and the reaction mixture was stirred at 90° C. for 3 hours. To the reaction mixture was added a saturated aqueous solution of ammonium chloride, and the reaction mixture was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was suspended in an aqueous solution of 1M-sodium hydrogen carbonate (60 mL), and the reaction mixture was stirred at 80° C. for 24 hours. To the reaction mixture was added 2N-hydrochloric acid, and the reaction mixture was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (20 mL), ethanol (40 mL) and water (20 mL). To the solution were added ammonium chloride (4.03 g) and iron powder (4.22 g), and the reaction mixture was stirred at 100° C. for 5 hours. The reaction mixture was filtered through a cotton plug, and then the filtrate was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the titled compound (3.03 g) as a yellow solid.

reactant | ethyl cyanoacetate | 3.2 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium hydride | 1.22 g | [H-].[Na+]
reactant | 1,4-dibromo-2-nitrobenzene | 4.21 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | (2-amino-4-bromophenyl)acetonitrile | 3.03 g | NC1=C(C=CC(=C1)Br)CC#N | C8H7BrN2
